US07994185B2
Step A: Methyl 3-(2,5-difluorophenylsulfonamido)-2-fluorobenzoate
To a solution of methyl 3-amino-2-fluorobenzoate (21.8 g, 129 mmol) in DCM (300 mL) were added pyridine (30.6 g, 387.6 mmol) and a catalytic amount of DMAP. The mixture was cooled to 0° C. 2,5-Difluorobenzene-1-sulfonyl chloride (28.8 g, 136 mmol) in DCM (20 mL) was added dropwise to the mixture. The reaction was stirred at rt overnight. The reaction mixture was washed with water (300 mL), and extracted with DCM (2×200 mL). The organic layer was washed with brine, dried over anhydrous NaSO4, filtered and concentrated under reduced pressure to give the crude product, which was washed with petroleum ether to afford the title compound of Step A. (16 g, 35.9%). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.71-10.91 (br, 1H), 7.65-7.73 (m, 1H), 7.48-7.62 (m, 4H), 7.20-7.28 (m, 1H), 3.77 (s, 3H).

reactant | methyl 3-amino-2-fluorobenzoate | 129 mmol, 21.8 g | NC=1C(=C(C(=O)OC)C=CC1)F | C8H8FNO2
reactant | pyridine | 387.6 mmol, 30.6 g | N1=CC=CC=C1 | C5H5N
reactant | 2,5-Difluorobenzene-1-sulfonyl chloride | 136 mmol, 28.8 g | FC1=C(C=C(C=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | Methyl 3-(2,5-difluorophenylsulfonamido)-2-fluorobenzoate | FC1=C(C=C(C=C1)F)S(=O)(=O)NC=1C(=C(C(=O)OC)C=CC1)F | C14H10F3NO4S
